*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXE500ARA101MJA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXE500ARA101MJA0G_20deg-C 1 2

C1 4 2 9.51e-05
C2 5 2 6.02e-06
C3 6 2 2.87e-06
R1 3 4 1.52e-02
R2 4 5 6.28e-01
R3 5 6 1.32e+01
L1 1 3 4.50e-09

.ENDS
*$
